US04886802
STEP A: 2-[[2-(6-methoxy-1H-indol-3-yl)-ethyl]-amino]-acetonitrile
28.5 g of 6-methoxytryptamine were refluxed in 300 ml of tetrahydrofuran in the presence of 42 ml of triethylamine and 11.4 ml of chloroacetonitrile were added over 2 hours. The heating was continued for 1 hour and after allowing the temperature to return to the ambient, the precipitate was eliminated by filtration. The filtrate was concentrated to dryness under reduced pressure and the residue was taken up in ethyl acetate, washed with water, dried and the solvent was eliminated under reduced pressure to obtain 17.9 g of the expected product melting at approx. 80° C.

reactant | 6-methoxytryptamine | 28.5 g | COC=1C=C2NC=C(CCN)C2=CC1 | C11H14N2O
reactant | triethylamine | 42 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetonitrile | 11.4 ml | ClCC#N | C2H2ClN
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-[[2-(6-methoxy-1H-indol-3-yl)-ethyl]-amino]-acetonitrile | 17.9 g | COC1=CC=C2C(=CNC2=C1)CCNCC#N | C13H15N3O
